US06555584B1
N-[2-[3-(4-t-Butylbenzyloxy)benzamido]benzenesulfonyl]acetamide
In a stream of nitrogen and at 0° C., 0.11 ml (1.10 mmol) of acetic anhydride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 438 mg (1.00 mmol) of 3-(4-t-butylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 2 and 249 mg (2.00 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 456 mg (yield: 96.0%) of the title compound.

reactant | acetic anhydride | 1.10 mmol, 0.11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(4-t-butylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.00 mmol, 438 mg | C(C)(C)(C)C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C24H26N2O4S
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 249 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[3-(4-t-Butylbenzyloxy)benzamido]benzenesulfonyl]acetamide | 456 mg, yield: 96.0% | C(C)(C)(C)C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(=O)(=O)NC(C)=O)C=CC2)C=C1 | C26H28N2O5S
